US06919361B2
(1) t-Butyl 3-{[(methylsulfanyl)carbothioyl]amino}propylcarbamate
To a solution of t-butyl 3-aminopropylcarbamate (6 g) and triethylamine (5.03 ml) in tetrahydrofuran (10 ml) was added dropwise carbon disulfide (2.07 ml), and the mixture was stirred at room temperature for 2.5 hours. To the reaction mixture was added dropwise methyl iodide (2.14 ml), and the mixture was stirred at room temperature for 0.5 hour. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (11 g) as crude oil.

reactant | t-butyl 3-aminopropylcarbamate | 6 g | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | triethylamine | 5.03 ml | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 2.14 ml | CI | CH3I
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | carbon disulfide | 2.07 ml | C(=S)=S | CS2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | t-Butyl 3-{[(methylsulfanyl)carbothioyl]amino}propylcarbamate | 11 g | CSC(=S)NCCCNC(OC(C)(C)C)=O | C10H20N2O2S2
